US07982071B2
3-(2-Ethyl-2-hydroxybutoxy)benzaldehyde was reacted with acetonitrile following the method used in Example 13. Purification by flash chromatography (30, 40, 50, 75% EtOAc-hexanes step gradient) gave 3-(3-(2-ethyl-2-hydroxybutoxy)phenyl)-3-hydroxypropanenitrile as an oil. Yield (0.17 g, 79%): 1H NMR (400 MHz, CDCl3) δ 7.23 (t, J=8.0 Hz, 1H), 6.96-6.98 (m, 2H), 6.88-6.91 (m, 1H), 5.02 (t, J=6.4 Hz, 1H), 3.83 (s, 2H), 2.76 (d, J=6.8 Hz, 2H), 1.62-1.68 (m, 4H), 0.92 (t, J=7.6 Hz, 6H).

reactant | 3-(2-Ethyl-2-hydroxybutoxy)benzaldehyde | C(C)C(COC=1C=C(C=O)C=CC1)(CC)O | C13H18O3
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(3-(2-ethyl-2-hydroxybutoxy)phenyl)-3-hydroxypropanenitrile | C(C)C(COC=1C=C(C=CC1)C(CC#N)O)(CC)O | C15H21NO3
